US08026289B2
10 g of polyethylene glycol (Mw ˜400, 10.0 g) in acetone (400 mL) was cooled to 15° C. and Jones reagent was added [(43 mL), prepared from 5.18 mL H2SO4, 5 g of CrO3 and 38 mL H2O]. The mixture was stirred at room temperature for 12 h. The acetone was removed under vacuum, the slurry dissolved in CH2Cl2 (150 mL) and washed with saturated NaCl solution (1×100 mL). The CH2Cl2 layer was dried (anhydrous MgSO4) and solvents removed to obtain corresponding poly(ethylene glycol) bis(carboxymethyl) ether (Mw ˜400) as an oil (9.35 g). IR, neat, 1739 cm−1, C═O stretch of carboxylic acid, 3436 cm−1 Broad O′H stretch.

reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | H2SO4 | 5.18 mL | OS(=O)(=O)O | H2O4S
reactant | H2O | 38 mL | O | H2O
solvent | acetone | 400 mL | CC(=O)C | C3H6O
product | poly(ethylene glycol) bis(carboxymethyl) ether | 9.35 g | C(CO)O.C(C(=O)O)O | InChI=1S/C2H4O3.C2H6O2/c3-1-2(4)5;3-1-2-4/h3H,1H2,(H,4,5);3-4H,1-2H2
